US06683201B2
In analogy to example 1.4, reaction of (4-Hydroxy-phenyl)-carbamic acid tert-butyl ester with 1,4-dibromobutane yielded [4-(4-Bromo-butoxy)-phenyl]-carbamic acid tert-butyl ester, MS: 344 (MH+, 1Br).

reactant | (4-Hydroxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | [4-(4-Bromo-butoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)OCCCCBr)=O | C15H22BrNO3
